*
*******************************************
*
*BZT52H-B3V6
*
*NXP Semiconductors
*
*Single zener diode in a SOD123F package
*
*
*
*
*VFmax = 0,9V  @ IF = 10mA  
*
*
*
*VZmax = 3,67V @ IZ = 5mA
*
*
*
*
* 
*
*
*Package pinning does not match Spice model pinning.
*Package: SOD123F
*
*Package Pin 1: Cathode
*Package Pin 2: Anode
* 
*
*
*Extraction date (week/year): 01/2016
*Simulator: SPICE2
*
*******************************************
*#
.SUBCKT BZT52H-B3V6 1 2     
 R1 1 2 1E+008   
 D1 1 2  
 + DIODE1
 D2 3 1  
 + DIODE2
 VZ 2 3 0.1      
*
*The resistor R1, the diode D2 and   
*VZ do not reflect  
*physical devices but improve 
*only modeling in the reverse 
*mode of operation.
*
 .MODEL DIODE1 D 
 + IS = 1.9E-011 
 + N = 1.53      
 + BV = 3.9      
 + IBV = 0.005   
 + RS = 0.28     
 + CJO = 1.554E-010      
 + VJ = 0.12     
 + M = 0.135     
 + FC = 0.5      
 + TT = 0
 + EG = 1.1      
 + XTI = 3       
 .MODEL DIODE2 D 
 + IS = 8E-009   
 + N = 9 
 + RS = 80       
 .ENDS                   
*